US07662841B2
A suspension of sodium hydride (60% in mineral oil, 13.6 g, 368 mmol) in N,N-dimethylformamide (160 ml) was cooled to −10° C. or below under a nitrogen atmosphere. Ethyl isocyanoacetate (36.2 g, 320 mmol) was gradually added dropwise to the cooled suspension, and the mixture was stirred at −3 to 5° C. for 2 hr. This solution was cooled to −20° C. or below and was added dropwise to a solution of 2,5-dibromothiazole (38.8 g, 160 mmol) in N,N-dimethylformamide over a period of about 20 min, and the mixture was stirred at −5 to −20° C. for 2 hr. Water (8 ml) was added thereto to stop the reaction, and the reaction solution was added to 15 wt % brine (960 ml) under ice cooling. Subsequently, the mixture was adjusted to pH 6 to 7 by the addition of 1 M hydrochloric acid. Subsequently, common salt (102 g) was added thereto at the same temperature, and the mixture was stirred overnight. The resultant precipitate was collected by filtration, was washed with water (136 ml), and was dried under the reduced pressure to give ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate (40.4 g, yield 91.9%).

reactant | sodium hydride | 368 mmol, 13.6 g | [H-].[Na+]
reactant | Ethyl isocyanoacetate | 320 mmol, 36.2 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | 2,5-dibromothiazole | 160 mmol, 38.8 g | BrC=1SC(=CN1)Br | C3HBr2NS
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
solvent | brine | 960 ml | [Cl-].[Na+].O
solvent | Water | 8 ml | O | H2O
product | ethyl 2-bromoimidazo[5,1-b]thiazole-7-carboxylate | 40.4 g, yield 91.9% | BrC1=CN2C(S1)=C(N=C2)C(=O)OCC | C8H7BrN2O2S
